US07517875B2
After dissolving 4-tert-butoxycarbonylamino-3-(2-nitro-benzenesulfonylamino)-benzoic acid methyl ester (1.23 g, 2.73 mmol) in dimethylformamide (10 ml), potassium carbonate (1.13 g, 8.16 mmol) and methyl iodide (0.254 ml, 4.09 mmol) were added in an ice bath, and the mixture was stirred at room temperature for 2 hours. Water (100 ml) was added to the reaction mixture, and extraction was performed with ethyl acetate (40 ml×4 times). The obtained organic layer was washed with saturated brine and then dried over anhydrous magnesium sulfate. After concentration under reduced pressure, the crystallized residue was dried to obtain 4-tert-butoxycarbonylamino-3-[methyl-(2-nitro-benzenesulfonyl)-amino]-benzoic acid methyl ester. The compound was identified by LC-MS.

reactant | 4-tert-butoxycarbonylamino-3-(2-nitro-benzenesulfonylamino)-benzoic acid methyl ester | 2.73 mmol, 1.23 g | COC(C1=CC(=C(C=C1)NC(=O)OC(C)(C)C)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C19H21N3O8S
reactant | potassium carbonate | 8.16 mmol, 1.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 4.09 mmol, 0.254 ml | CI | CH3I
reactant | Water | 100 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 4-tert-butoxycarbonylamino-3-[methyl-(2-nitro-benzenesulfonyl)-amino]-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)NC(=O)OC(C)(C)C)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C)=O | C20H23N3O8S
